US07902367B2
Step B2) Benzyl nipecotate
Trifluoroacetic acid (43 mL, 558 mmol) was added to benzyl 1-(tert-butoxycarbonyl)nipecotate (7.11 g, 22.3 mmol) in dichloromethane (20 mL). The mixture was stirred for 3 hours. Subsequently, the reaction mixture was concentrated and water was added to the residue, followed by addition of 1 mol/L aqueous sodium hydroxide solution to make the mixture basic. The mixture was then extracted with ethyl acetate. The organic layer washed with brine and was dried over sodium sulfate. The solvent was evaporated to give 5.97 g (quant.) of the desired compound as a yellow oil.

reactant | Trifluoroacetic acid | 558 mmol, 43 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | benzyl 1-(tert-butoxycarbonyl)nipecotate | 22.3 mmol, 7.11 g | C(C)(C)(C)OC(=O)N1CC(C(=O)OCC2=CC=CC=C2)CCC1 | C18H25NO4
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | Benzyl nipecotate | N1CC(C(=O)OCC2=CC=CC=C2)CCC1 | C13H17NO2
